* C:\Users\seijirom\Dropbox\MakeLSI\2020_9\2in1_OpAmp\PSRR_tb.asc
XX1 N001 N004 Vout1 Vbias2 Vbias1 0 opamp3ureiauto
XX2 N003 N002 Vbias2 Vbias2 Vout2 0 opamp_k_niioka_20200903
V1 Vbias2 0 {vdd}
R1 N001 vin {Rs}
R2 N004 vin {Rs}
R3 N004 vin {Rf}
R4 Vout1 N001 {Rf}
V3 vin 0 {vdd/2}
R5 N002 vin {Rs}
R6 N003 vin {Rs}
R7 N003 vin {Rf}
R8 Vout2 N002 {Rf}

* block symbol definitions
.subckt opamp3ureiauto Vinm Vinp Vout VDD Vbias gnd
M1 N010 N010 gnd gnd nch l=1u w=16u ad=3.5e-10 as=3.5e-10 pd=64e-6 ps=64e-6
M2 N008 N008 N010 gnd nch l=1u w=16u ad=3.5e-10 as=3.5e-10 pd=64e-6 ps=64e-6
M3 N011 N010 gnd gnd nch l=1u w=16u ad=3.5e-10 as=3.5e-10 pd=64e-6 ps=64e-6
M4 N007 N008 N011 gnd nch l=1u w=16u ad=3.5e-10 as=3.5e-10 pd=64e-6 ps=64e-6
M5 N001 Vbias gnd gnd nch l=1u w=34u ad=7e-10 as=7e-10 pd=114e-6 ps=114e-6
M6 N006 Vbias gnd gnd nch l=1u w=16u ad=3.5e-10 as=3.5e-10 pd=64e-6 ps=64e-6
M10 Vout N009 gnd gnd nch l=1u w=100u ad=2.1e-9 as=2.1e-9 pd=314e-6 ps=314e-6
M11 N009 N010 gnd gnd nch l=1u w=16u ad=3.5e-10 as=3.5e-10 pd=64e-6 ps=64e-6
M12 VDD N007 N009 gnd nch l=1u w=16u ad=3.5e-10 as=3.5e-10 pd=64e-6 ps=64e-6
M13 N002 N001 VDD VDD pch l=1u w=50u ad=1.05e-9 as=1.05e-9 pd=164e-6 ps=164e-6
M14 N003 N003 N002 N002 pch l=1u w=38u ad=5.25e-10 as=5.25e-10 pd=89e-6 ps=89e-6
M15 N006 N006 N003 N003 pch l=1u w=38u ad=5.25e-10 as=5.25e-10 pd=89e-6 ps=89e-6
M16 N007 N006 N005 N005 pch l=1u w=19u ad=5.25e-10 as=5.25e-10 pd=89e-6 ps=89e-6
M17 N008 N006 N004 N004 pch l=1u w=19u ad=5.25e-10 as=5.25e-10 pd=89e-6 ps=89e-6
M18 N004 Vinm N002 N002 pch l=1u w=25u ad=5.25e-10 as=5.25e-10 pd=89e-6 ps=89e-6
M20 Vout N001 VDD VDD pch l=1u w=50u ad=1.05e-9 as=1.05e-9 pd=164e-6 ps=164e-6
M21 N005 Vinp N002 N002 pch l=1u w=25u ad=5.25e-10 as=5.25e-10 pd=89e-6 ps=89e-6
M24 N001 N001 VDD VDD pch l=1u w=50u ad=1.05e-9 as=1.05e-9 pd=164e-6 ps=164e-6
M7 Vbias Vbias gnd gnd nch l=1u w=34u ad=7e-10 as=7e-10 pd=114e-6 ps=114e-6
R1 VDD Vbias 40k
C1 Vout N007 3p
.inc ./models/OR1_mos
.ends opamp3ureiauto

.subckt opamp_k_niioka_20200903 in+ in- Vb Vdd out GND
M1 N002 N001 Vdd Vdd pch l=3u w=100u
M2 N001 N001 Vdd Vdd pch l=3u w=100u
M4 N001 in- N004 GND nch l=1u w=400u
M5 N002 in+ N004 GND nch l=1u w=400u
M6 N004 N003 GND GND nch l=2.5u w=120u
M7 N003 N003 GND GND nch l=2.5u w=10u
M8 out N003 GND GND nch l=1u w=120u
M3 out N002 Vdd Vdd pch l=1u w=240u
R1 N003 Vb 40k
C2 N002 N001 3p
.include "./models/OR1_mos"
.ends opamp_k_niioka_20200903

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\seijirom\Documents\LTspiceXVII\lib\cmp\standard.mos
.param Rs=10 Rf=1k vdd=5
.dc V1 0 5 0.01
.step dec param Rf 1k 100k 1
.backanno
.end
